US08212041B2
4-((6-Bromo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline (0.050 g, 0.13 mmol) was dissolved in DMF (1 mL) then added zinc cyanide (0.023 g, 0.19 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.0072 g, 0.013 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.0059 g, 0.0065 mmol). The reaction mixture was heated at 100° C. for 8 hours. Additional zinc cyanide (0.012 g, 0.095 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.004 g, 0.0065 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.003 g, 0.0032 mmol) were added and heating was continued at 100° C. for 6 hours. The reaction mixture was concentrated under vacuum. The sample was purified by preparative TLC eluting with 10% 7N ammonia in methanol/dichloromethane to afford 3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carbonitrile (23 mg, 53% yield) as a white solid.

reactant | 4-((6-Bromo-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)-7-methoxyquinoline | 0.13 mmol, 0.050 g | BrC=1C=CC=2N(C1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC | C17H13BrN4O2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.19 mmol, 0.023 g | [C-]#N.[Zn+2].[C-]#N
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.013 mmol, 0.0072 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0065 mmol, 0.0059 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc cyanide | 0.095 mmol, 0.012 g | [C-]#N.[Zn+2].[C-]#N
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.0065 mmol, 0.004 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0032 mmol, 0.003 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridine-6-carbonitrile | 23 mg, 53% yield | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C#N | C18H13N5O2
